* C:\Users\bhavi\OneDrive\Documents\LTspice\Draft2.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 V
R1 N002 N001 R
D1 N002 0 D
.model D D
.lib C:\Users\bhavi\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 1 0 1
.backanno
.end
